US08865726B2
To a solution of 2-amino-2-(pyridin-2-yl)ethanol (3.8 g, 28 mmol) (as the bis HCl salt) in water (50 mL) cooled to 0° C. was added potassium hydroxide (11 g, 19 mmol) followed by THF (50 mL) and the reaction stirred for 20 minutes at 0° C., followed by addition of bis(trichloromethyl) carbonate (8.2 g, 28 mmol) as the solid and stirring at 0° C. for 2 hours. The reaction was next poured into water and extracted with EtOAc and the combined organic layers were washed with 1N NaOH, brine, dried over MgSO4 and concentrated in vacuo. The crude material was purified by normal phase chromatography using EtOAc as eluent to yield 4-(pyridin-2-yl)oxazolidin-2-one (1.4 g, 8.5 mmol, 31% yield).

reactant | 2-amino-2-(pyridin-2-yl)ethanol | 28 mmol, 3.8 g | NC(CO)C1=NC=CC=C1 | C7H10N2O
reactant | HCl | Cl | ClH
reactant | potassium hydroxide | 19 mmol, 11 g | [OH-].[K+]
reactant | bis(trichloromethyl) carbonate | 28 mmol, 8.2 g | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
solvent | water | 50 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-(pyridin-2-yl)oxazolidin-2-one | 8.5 mmol, 1.4 g, 31% yield | N1=C(C=CC=C1)C1NC(OC1)=O | C8H8N2O2
